US05198560
The diynene acetal X may be synthesized using the following procedure. Cis-1,2-dichloroethylene is reacted with 3,3-diethoxypropyne in the presence of copper iodide, palladium tetrakis(triphenylphosphine) and n-butylamine, at room temperature and in the absence of light. The product, (Z)-5-chloro-1,1-diethoxy-4-pentene-2-yne is treated with trimethylsilylacetylene in the presence of copper iodide, palladium tetrakis(triphenylphosphine), and n-butylamine at room temperature and away from light to provide (Z)-7,7-diethoxy-1-trimethylsilyl-3-hepten-1,5-diyne. The corresponding anion is then generated by treatment with an alkali metal hydroxide, such as lithium hydroxide.

reactant | Cis-1,2-dichloroethylene | Cl\C=C/Cl | C2H2Cl2
reactant | 3,3-diethoxypropyne | C(C)OC(C#C)OCC | C7H12O2
reactant | n-butylamine | C(CCC)N | C4H11N
reactant | (Z)-5-chloro-1,1-diethoxy-4-pentene-2-yne | Cl\C=C/C#CC(OCC)OCC | C9H13ClO2
reactant | trimethylsilylacetylene | C[Si](C)(C)C#C | C5H10Si
catalyst | copper iodide | [Cu](I)I
catalyst | palladium tetrakis(triphenylphosphine) | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Pd]
product | (Z)-7,7-diethoxy-1-trimethylsilyl-3-hepten-1,5-diyne | C(C)OC(C#C\C=C/C#C[Si](C)(C)C)OCC | C14H22O2Si
